US07262198B2
To a cooled solution of 1-(4-fluorophenyl)-4-(hydroxymethyl)pyrrolidin-2-one (0.05 g, 0.25 mmol) in pyridine (3 ml) was added triphenylphosphine (0.130 g, 0.5 mmol). The solution was stirred and carbon tetrabromide (0.08 g, 0.25 mmol) was added in 3 separate portions. The reaction mixture was then allowed to warm to room temperature and stirred for three hours. The reaction was quenched with methanol and the solvent removed. The residue was dissolved in EtOAc (75 ml) and sequentially washed with ammonium chloride (sat, 2×25 ml) and water (25 ml). The organic layer was concentrated and purified using preparative tlc (1:1 EtOac:Hexanes) to yield 4-(bromomethyl)-1-(4-fluorophenyl)pyrrolidin-2-one (HNMR).

reactant | 1-(4-fluorophenyl)-4-(hydroxymethyl)pyrrolidin-2-one | 0.25 mmol, 0.05 g | FC1=CC=C(C=C1)N1C(CC(C1)CO)=O | C11H12FNO2
reactant | triphenylphosphine | 0.5 mmol, 0.130 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.25 mmol, 0.08 g | C(Br)(Br)(Br)Br | CBr4
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 4-(bromomethyl)-1-(4-fluorophenyl)pyrrolidin-2-one | BrCC1CC(N(C1)C1=CC=C(C=C1)F)=O | C11H11BrFNO
